US07202252B2
By the method of Example 2, 2-(acetamino)phenylacetic acid is reacted with 5,6-diamino-1-(2-phenylethyl)-3-propyluracil to yield 8-(2-acetaminobenzyl)-3-(2-phenylethyl)-1-propylxanthine. By methods well known in the art, 8-(2-acetaminobenzyl)-3-(2-phenylethyl)-1-propylxanthine is hydrolyzed with base to yield 8-(2-aminobenzyl)-3-(2-phenylethyl)-1-propylxanthine. In turn, 5,6-diamino-1-(2-(phenylethyl)-3-propyluracil is made by the synthetic methods of Example 1, starting with phenethylamine hydrochloride.

reactant | 2-(acetamino)phenylacetic acid | N(C(=O)C)C1=C(C=CC=C1)CC(=O)O | C10H11NO3
reactant | 5,6-diamino-1-(2-phenylethyl)-3-propyluracil | NC=1C(N(C(N(C1N)CCC1=CC=CC=C1)=O)CCC)=O | C15H20N4O2
product | 8-(2-acetaminobenzyl)-3-(2-phenylethyl)-1-propylxanthine | N(C(=O)C)C1=C(CC2=NC=3N(C(N(C(C3N2)=O)CCC)=O)CCC2=CC=CC=C2)C=CC=C1 | C25H27N5O3
